US07915267B2
ethyl 3-[4-oxo-2-({3-[2-(1H-1,2,4-triazol-3-yloxy)ethoxy]benzyl}carbamoyl)-3,4-dihydrothieno[2,3-d]pyrimidin-5-yl]benzoate
By a method similar to that in Example 22, and using, instead of ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate, ethyl 5-[3-(ethoxycarbonyl)phenyl]-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxylate obtained in Reference Example 82 and using, instead of 1-[2-({3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propyl}oxy)pyridin-4-yl]methaneamine, 1-{3-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]oxy}ethyl)oxy]phenyl}methanamine obtained in Reference Example 32, the title compound was obtained as a white powder (132.7 mg, 58%).

reactant | ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate | O=C1NC(=NC2=CC=CC=C12)C(=O)OCC | C11H10N2O3
reactant | ethyl 5-[3-(ethoxycarbonyl)phenyl]-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxylate | C(C)OC(=O)C=1C=C(C=CC1)C1=CSC=2N=C(NC(C21)=O)C(=O)OCC | C18H16N2O5S
reactant | 1-[2-({3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propyl}oxy)pyridin-4-yl]methaneamine | C1(=CC=CC=C1)C(N1N=C(N=C1)CCCOC1=NC=CC(=C1)CN)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H29N5O
reactant | 1-{3-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]oxy}ethyl)oxy]phenyl}methanamine | C1(=CC=CC=C1)C(N1N=C(N=C1)OCCOC=1C=C(C=CC1)CN)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H28N4O2
product | ethyl 3-[4-oxo-2-({3-[2-(1H-1,2,4-triazol-3-yloxy)ethoxy]benzyl}carbamoyl)-3,4-dihydrothieno[2,3-d]pyrimidin-5-yl]benzoate | O=C1C2=C(N=C(N1)C(NCC1=CC(=CC=C1)OCCOC1=NNC=N1)=O)SC=C2C=2C=C(C(=O)OCC)C=CC2 | C27H24N6O6S
